* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*DIODES_INC_SPICE_MODEL ZENER
*SIMULATOR=SIMETRIX
*ORIGIN=DZSL_DPG_SU
*DATE=29Apr2013
*VERSION=2


.SUBCKT MMSZ5226B  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 2.6

.MODEL DF D ( IS=25.1p RS=33.6 N=1.10
+ CJO=46.3p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=30f RS=3.8 N=.9 )
.ENDS

*                (c)  2013 Diodes Inc
*
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
*
