.SUBCKT mm3z3v3st1g 2 1
* Model generated on Aug 16, 07
* MODEL FORMAT: PSpice
*     anode cathode
*node: 2      1
*    Forward Section
D1 2 1 MD1
.MODEL MD1 D IS=1.4925e-09 N=1.93356 XTI=1 RS=1
+ CJO=1e-11 TT=2e-09
*    Leakage Current
R 1 2 MDR 1e+06	
.MODEL MDR RES TC1=0 TC2=0
*    Breakdown
RZ 2 3 20.8385
IZG 4 3 0.072
R4 4 3 3500
D3 3 4 MD3
.MODEL MD3 D IS=2.5e-12 N=3.56434 XTI=0 EG=0.1
D2 5 4 MD2
.MODEL MD2 D IS=2.5e-12 N=9.25037 XTI=0 EG=0.1
EV1 1 5 6 0 1
IBV 0 6 0.001
RBV 6 0 MDRBV 389.314
.MODEL MDRBV RES TC1=0
*-- PSpice DIODE MODEL DEFAULT PARAMETER
*  VALUES ARE ASSUMED
*IS=1E-14 RS=0 N=1 TT=0 CJO=0
*VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
*KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.ENDS mm3z3v3st1g
