******************************************************************
*
* 		TDK Electronics
* 		PPD Business Group
* 		A-8530 Deutschlandsberg
* 		Siemensstraße 43
*
*		Andreas Lesch
*       	PPD CMRD INT
*		Tel  +43 (0) 676 8226 4991
*		Email andreas.lesch@tdk.com
*
*
******************************************************************
* Please read the hints in "Readme.txt".
******************************************************************
*
*
******************************************************************
************************ preliminary *****************************
******************************************************************
*
* Library TVS.sub
* Version 1.2 ( 02. February 2023)
*
*
*
******************************************************************
* Library for Linear Technologies LTspice
*
******************************************************************
*
*
*
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
*
.model snapback1SW SW(Ron=0.001 Roff=1e6 Von=11.6 Voff=11.4)
.model Before_snapback D(Is=5e-17 N=9.1 Rs=17 )
.model mainIV D(Is=5.6e-16 N=1.82 Rs=0.43 )
.model sbcmSW SW(Ron=0.001 Roff=180 Von=11.8 Voff=0)
.model cmSW SW(Ron=0.001 Roff=11 Von=10.95 Voff=0)
.model mainIV2 D(Is=4.49e-15 N=3.62 Rs=0.27 )
*
.model snapback1SW_GP101 SW(Ron=0.001 Roff=1e6 Von=4 Voff=3.9)
.model Before_snapback_GP101 D(Is=5e-16 N=9.1 Rs=1000 )
.model mainIV_GP101 D(Is=2.6e-16 N=6.5 Rs=0.09 )
.model cmSW_GP101 SW(Ron=0.001 Roff=11 Von=3.5 Voff=0)
*
*
*
*
.SUBCKT SD0201SL_GP101 A1 A2 PARAMS: L1v=0.14n C1v=13p R1v=0.28
L1 A1 N005 0.14n
C1 N005 N007 13p
R1 N007 A2 0.28
R2 N005 A2 1e7
D1 N005 Positive idealD
E1 N009 A2 Positive A2 1
V1 Snap_A Snap_B 7
D3 A2 Snap_B idealD
C2 snap_c A2 1p
R3 snap_c A2 1e6
D4 Test N011 idealD
V2 N011 N015 100
R4 N015 A2 50
D5 N013 Test idealD
R5 N013 A2 50
R6 Snap_C_LP snap_c 4
C3 Snap_C_LP A2 1p
S1 V3 Positive Snap_C_LP A2 snapback1SW_GP101
F1 A2 Test V3 -0.9
R7 A2 Test 1e100
R8 A2 Positive 1e100
R9 Snap_A N009 1K
D6 N018 A2 mainIV_GP101
R10 A2 Snap_B 1e100
R11 A2 snap_c 1e100
V3 B V3 0
R12 Test snap_c 1000
D12 Positive A2 Before_snapback_GP101
G2 A2 snap_c A2 Snap_B -1
F3 A2 N021 V8 +1
R17 N021 A2 1e100
V8 B N017 0
S3 N018 N017 CM_C A2 cmSW_GP101
V9 CM_C N021 1.37
C5 N021 A2 30n
D9 N021 N023 idealD
D10 P001 N021 idealD
R18 N025 A2 50
R19 P001 A2 50
V10 N023 N025 100
R21 N021 A2 1e6
D2 Negative N005 idealD
D13 A2 Negative Before_snapback_GP101
E3 N010 A2 Negative A2 -1
V11 Snap_A_N Snap_B_N 7
D14 A2 Snap_B_N idealD
C7 snap_c_N A2 1p
R25 snap_c_N A2 1e6
D15 N008 N012 idealD
V12 N012 N016 100
R26 N016 A2 50
D16 N014 N008 idealD
R27 N014 A2 50
R28 Snap_C_LP_N snap_c_N 4
C8 Snap_C_LP_N A2 1p
S4 V3_N Negative Snap_C_LP_N A2 snapback1SW_GP101
F4 A2 N008 V13 +0.9
R29 A2 N008 1e100
R30 A2 Negative 1e100
R31 Snap_A_N N010 1K
D17 A2 N020 mainIV_GP101
R32 A2 Snap_B_N 1e100
R33 A2 snap_c_N 1e100
V13 B_N V3_N 0
R34 N008 snap_c_N 1000
G1 A2 snap_c_N A2 Snap_B_N -1
F6 A2 N022 V16 -1
R38 N022 A2 1e100
V16 B_N N019 0
S6 N020 N019 CM_C_N A2 cmSW_GP101
V17 CM_C_N N022 1.37
C10 N022 A2 30n
D20 N022 N024 idealD
D21 P002 N022 idealD
R39 N026 A2 50
R40 P002 A2 50
V19 N024 N026 100
R42 N022 A2 1e6
.ic v(snap_c_N)=0
.ic v(snap_c)=0
.ENDS
*
*
*
*